US05256633
2-Methoxythiazole-4-carboxylic acid-tert.-butylamide
At 25° C., 8.90 g of a 30% strength solution (49 mmol) of sodium methanolate in methanol was added to a solution of 12.00 (46 mmol) of 2-bromothiazole-4-carboxylic acid-tert.-butylamide in 150 ml of methanol. The mixture was boiled under reflux for four hours, the clear solution was evaporated down, the residue was taken up to 300 ml of diethyl ether and filtered, and the solvent was removed under reduced pressure. There was obtained 9.60 g (98%) of the product as a yellow oil.

reactant | sodium methanolate | 49 mmol | C[O-].[Na+]
reactant | 2-bromothiazole-4-carboxylic acid-tert.-butylamide | C(C)(C)(C)NC(=O)C=1N=C(SC1)Br | C8H11BrN2OS
solvent | methanol | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 2-Methoxythiazole-4-carboxylic acid-tert.-butylamide | 9.60 g, 98% | C(C)(C)(C)NC(=O)C=1N=C(SC1)OC | C9H14N2O2S
